US06869949B2
23. (7R,8R,9R)-3-Hydroxymethyl-8-hydroxy-7-(2-hydroxyethoxy)-2-methyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
A suspension of 0.17 g (0.30 mmol) (7R,8R,9R)-10-acetyl-3-hydroxymethyl-7-(2-hydroxyethoxy)-2-methyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine and 0.30 g (2.10 mmol) potassium carbonate in aminoethanol is stirred at 90° C. for 2 h. The reaction is quenched by adding the mixture directly of silica gel for purification by column chromatography (dichloromethane/methanol: 13/1/1) to give 0.02 g (0.06 mmol/19%) of the title compound as a armorph solid. 1H-NMR (200 MHz,[D6] DMSO): δ=2.29 (s, 1H), 3.30-3.44 (m, 2H), 3.46-3.65 (m, 2H), 4.01 (q, 1H), 4.47 (t, 2H), 4.70 (d, 2H), 6.79 (d, 1H), 7.20-7.43 (m, 5H), 7.63 (d, 1H).

reactant | (7R,8R,9R)-10-acetyl-3-hydroxymethyl-7-(2-hydroxyethoxy)-2-methyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 0.30 mmol, 0.17 g | C(C)(=O)N1[C@@H]([C@H]([C@@H](C=2C=CN3C(C12)=NC(=C3CO)C)OCCO)OC(C(C)(C)C)=O)C3=CC=CC=C3 | C27H33N3O6
reactant | potassium carbonate | 2.10 mmol, 0.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | aminoethanol | NC(C)O | C2H7NO
product | (7R,8R,9R)-3-Hydroxymethyl-8-hydroxy-7-(2-hydroxyethoxy)-2-methyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | OCC1=C(N=C2N1C=CC=1[C@H]([C@@H]([C@H](NC21)C2=CC=CC=C2)O)OCCO)C | C20H23N3O4
